US05585385
5-Cyclohexyl-7,8-dihydro-7-methyl-8-oxo-6-pyrido[3,4-b]pyridinecarboxylic acid
Starting from 3-cyclohexylcarbonyl-2-pyridinecarboxylic acid, which was prepared from 2,3-pyridinedicarboxylic anhydride and cyclohexylmagnesium chloride, substantially the same reaction and work-up as in Reference Exampe 1-Process 2-Step 1 to Step 4 were conducted to give the title compound as a pale yellow oil, which was used for the reaction of Example 76.

reactant | 3-cyclohexylcarbonyl-2-pyridinecarboxylic acid | C1(CCCCC1)C(=O)C=1C(=NC=CC1)C(=O)O | C13H15NO3
reactant | 2,3-pyridinedicarboxylic anhydride | N1=C2C(=CC=C1)C(=O)OC2=O | C7H3NO3
reactant | cyclohexylmagnesium chloride | C1(CCCCC1)[Mg]Cl
product | 5-Cyclohexyl-7,8-dihydro-7-methyl-8-oxo-6-pyrido[3,4-b]pyridinecarboxylic acid | C1(CCCCC1)C1=C(N(C(C2=NC=CC=C21)=O)C)C(=O)O | C16H18N2O3
